US06544985B2
[2′-Fluoro-5-[3-(3-imidazol-1-yl-phenyl)-3-oxo-propionylamino]-2-(2,2,2-trifluoro-ethoxy)-biphenyl-4-yl]-carbamic acid tert.-butyl ester
The title compound was prepared from [5-amino-2′-fluoro-2-(2,2,2-trifluoro-ethoxy)-biphenyl-4-yl]-carbamic acid tert.-butyl ester (Example J5) (200 mg, 0.5 mmol) and 6-(3-imidazol-1-yl-phenyl)-2,2-dimethyl-[1,3]dioxin-4-one (Example L3) (160 mg, 0.5 mmol) according to the general procedure M. Obtained as an amorphous brown substance (167 mg).

reactant | [5-amino-2′-fluoro-2-(2,2,2-trifluoro-ethoxy)-biphenyl-4-yl]-carbamic acid tert.-butyl ester | 0.5 mmol, 200 mg | C(C)(C)(C)OC(NC1=CC(=C(C=C1N)C1=C(C=CC=C1)F)OCC(F)(F)F)=O | C19H20F4N2O3
reactant | 6-(3-imidazol-1-yl-phenyl)-2,2-dimethyl-[1,3]dioxin-4-one | 0.5 mmol, 160 mg | N1(C=NC=C1)C=1C=C(C=CC1)C1=CC(OC(O1)(C)C)=O | C15H14N2O3
product | [2′-Fluoro-5-[3-(3-imidazol-1-yl-phenyl)-3-oxo-propionylamino]-2-(2,2,2-trifluoro-ethoxy)-biphenyl-4-yl]-carbamic acid tert.-butyl ester | C(C)(C)(C)OC(NC1=CC(=C(C=C1NC(CC(=O)C1=CC(=CC=C1)N1C=NC=C1)=O)C1=C(C=CC=C1)F)OCC(F)(F)F)=O | C31H28F4N4O5
